US07834051B2
2-chloro-4-[2-(4-cyanobenzyl)-3-hydroxy-5-oxo-2,5-dihydro-1H-pyrrol-1-yl]benzonitrile
To a solution of N-(3-chloro-4-cyanophenyl)-4-cyanophenylalanine (1.57 g), Meldrum's acid (0.76 g) and 4-(N,N-dimethylamino)pyridine (0.88 g) in tetrahydrofuran (70 mL) was added N,N′-carbonyldiimidazole (0.94 g) at 0° C., and the mixture was stirred at room temperature overnight. A 5% aqueous potassium hydrogen sulfate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with 5% aqueous potassium hydrogen sulfate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (30 mL), and the mixture was refluxed for 45 min. After allowing to room temperature, the organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate-isopropyl ether to give the title compound as pale-yellow crystals (yield: 578 mg, 34%).

reactant | N-(3-chloro-4-cyanophenyl)-4-cyanophenylalanine | 1.57 g | ClC=1C=C(C=CC1C#N)N[C@@H](CC1=CC=C(C=C1)C#N)C(=O)O | C17H12ClN3O2
reactant | Meldrum's acid | 0.76 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
catalyst | 4-(N,N-dimethylamino)pyridine | 0.88 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-[2-(4-cyanobenzyl)-3-hydroxy-5-oxo-2,5-dihydro-1H-pyrrol-1-yl]benzonitrile | yield: 578 mg, 34% | ClC1=C(C#N)C=CC(=C1)N1C(C(=CC1=O)O)CC1=CC=C(C=C1)C#N | C19H12ClN3O2
